US07671080B2
trans-5-Cyano-1-[3-(4-methyl-piperazin-1-yl)-benzyl]-1H-indole-2-carboxylic acid (2-hydroxy-cyclohexylmethyl)amide
A mixture of 5-cyano-1-[3-bromobenzyl]-1H-indole-2-carboxylic acid (2-hydroxy-cyclohexylmethyl)amide (prepared using 3-bromobenzyl bromide and 3-amino-2,2-dimethyl-1-propanol in a manner similar to that described in Example 35) (0.250 g, 0.54 mmol), tris(dibenzylidineacetone)dipalladium (125 mg, 0.014 mmol), 2-(dicyclohexylphosphine) biphenyl (9.6 mg, 0.027 mmol), potassium phosphate (1.44 g, 0.82 mmol) and N-methylpiperazine (64 mg, 0.64 mmol) in 1,2-dimethoxyethane (3 ml) were heated in a sealed Reactavial at 100° C. under nitrogen for 30 h. After cooling to ambient temperature, the mixture was filtered through dicalite and the resulting filtrate evaporated to dryness. Purification was fulfilled by chromatography on silica using DCM:methanol (19:1) as eluent, affording the title compound (0.021 g, 8%).

reactant | 5-cyano-1-[3-bromobenzyl]-1H-indole-2-carboxylic acid (2-hydroxy-cyclohexylmethyl)amide | OC1C(CCCC1)CNC(=O)C=1N(C2=CC=C(C=C2C1)C#N)CC1=CC(=CC=C1)Br | C24H24BrN3O2
reactant | 3-bromobenzyl bromide | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | 3-amino-2,2-dimethyl-1-propanol | NCC(CO)(C)C | C5H13NO
reactant | potassium phosphate | 0.82 mmol, 1.44 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N-methylpiperazine | 0.64 mmol, 64 mg | CN1CCNCC1 | C5H12N2
solvent | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
product | trans-5-Cyano-1-[3-(4-methyl-piperazin-1-yl)-benzyl]-1H-indole-2-carboxylic acid (2-hydroxy-cyclohexylmethyl)amide | 0.021 g, 8% | O[C@H]1[C@@H](CCCC1)CNC(=O)C=1N(C2=CC=C(C=C2C1)C#N)CC1=CC(=CC=C1)N1CCN(CC1)C | C29H35N5O2
